US07763657B2
Step 3: N-(4-{1-[3-(4-tert-Butylphenyl)ureido]ethyl}-2-phenylethynylphenyl)methanesulfonamide
N-[4-(1-Aminoethyl)-2-phenylethynylphenyl]methanesulfonamide (440.1 mg, 1.40 mmol) and TEA (390.3 μl, 2.800 mmol, 2 eq) were added in methylene chloride. The reaction mixture was cooled down to 0° C. 4-tert-Butylphenyl isocyanate (248.8%, 1.540 mmol, 1.3 eq.) was added into the mixture. The reaction mixture was stirred for 1 hr. Methylene chloride was removed in vacuo. The residue was purified with column chromatography (n-Hx:EA=2:1) to yield title compound (241.4 mg, 35%) as a solid.

reactant | N-[4-(1-Aminoethyl)-2-phenylethynylphenyl]methanesulfonamide | 1.40 mmol, 440.1 mg | NC(C)C1=CC(=C(C=C1)NS(=O)(=O)C)C#CC1=CC=CC=C1 | C17H18N2O2S
reactant | 4-tert-Butylphenyl isocyanate | 1.540 mmol, 1.3 eq. | C(C)(C)(C)C1=CC=C(C=C1)N=C=O | C11H13NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-(4-{1-[3-(4-tert-Butylphenyl)ureido]ethyl}-2-phenylethynylphenyl)methanesulfonamide | 241.4 mg, 35% | C(C)(C)(C)C1=CC=C(C=C1)NC(NC(C)C1=CC(=C(C=C1)NS(=O)(=O)C)C#CC1=CC=CC=C1)=O | C28H31N3O3S
